US07495103B2
3-Ethyl-1H-indol-6-ylamine (B-12) was synthesized following the general scheme above starting from 6-nitroindole and ethyl bromide. Overall yield (42%). HPLC ret. time 1.95 min, 10-99% CH3CN, 5 min run; ESI-MS 161.3 m/z (MH+).

reactant | 6-nitroindole | [N+](=O)([O-])C1=CC=C2C=CNC2=C1 | C8H6N2O2
reactant | ethyl bromide | C(C)Br | C2H5Br
solvent | CH3CN | CC#N | C2H3N
product | 3-Ethyl-1H-indol-6-ylamine | C(C)C1=CNC2=CC(=CC=C12)N | C10H12N2
